US07338959B2
N2-Cyclohexyl-N5-{2-[4-(1-methanesulfonyl-ethyl)-phenylamino]-pyrimidin-4-yl}-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine hydrochloride
The title compound was prepared following the procedure of example 1 with N5-(2-Chloro-pyrimidin-4-yl)-N2-cyclohexyl-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (74 mg, 0.20 mmol) and 4-(1-methanesulfonyl-ethyl)-phenylamine (40 mg, 0.20 mmol) as a white solid (104 mg, 91%). 1H NMR (300 MHz, D6-DMSO) δ 9.34 (s, 1H), 7.85 (d, J=6.0 Hz, 1H), 7.71 (d, J=8.4 Hz, 2H), 7.43 (d, J=8.1 Hz, 1H), 7.22-7.26 (m, 3H), 7.08 (d, J=8.1 Hz, 1H), 5.76 (d, J=6.0 Hz, 1H), 4.40 (m, 1H), 3.72 (m, 1H), 3.63 (s, 3H), 3.45 (s, 3H), 2.76 (s, 3H), 1.99 (m, 2H), 1.76 (m, 2H), 1.58-1.65 (m, 4H), 1.33-1.43 (m, 4H), 1.15 (m, 1H) ppm. MS (ESI) m/z=534 [M+H]+.

reactant | N5-(2-Chloro-pyrimidin-4-yl)-N2-cyclohexyl-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.20 mmol, 74 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC2CCCCC2)C)C=C1)C | C19H23ClN6
reactant | 4-(1-methanesulfonyl-ethyl)-phenylamine | 0.20 mmol, 40 mg | CS(=O)(=O)C(C)C1=CC=C(C=C1)N | C9H13NO2S
product | N2-Cyclohexyl-N5-{2-[4-(1-methanesulfonyl-ethyl)-phenylamino]-pyrimidin-4-yl}-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine hydrochloride | Cl.C1(CCCCC1)NC1=NC2=C(N1C)C=CC(=C2)N(C)C2=NC(=NC=C2)NC2=CC=C(C=C2)C(C)S(=O)(=O)C | InChI=1S/C28H35N7O2S.ClH/c1-19(38(4,36)37)20-10-12-22(13-11-20)30-27-29-17-16-26(33-27)34(2)23-14-15-25-24(18-23)32-28(35(25)3)31-21-8-6-5-7-9-21;/h10-19,21H,5-9H2,1-4H3,(H,31,32)(H,29,30,33);1H
